US07115633B2
4-(2,6-Dichloro-phenyl)-piperidine-2,6-dione
14.5 g (52 mmol) of 3-(2,6-dichloro-phenyl)-pentanedioic acid were dissolved in 140 mL of conc. NH4OH solution. All the volatiles were removed in vacuo and the resulting solid was heated to 190° C. for 6 h. The crude reaction mixture was taken up in CH2Cl2, the organic phase was washed with 0.1 M Na2CO3 solution, dried and evaporated to dryness. The resulting crude solid was triturate with Et2O, filtered and dried, yielding 9.37 g of the title compound.

reactant | 3-(2,6-dichloro-phenyl)-pentanedioic acid | 52 mmol, 14.5 g | ClC1=C(C(=CC=C1)Cl)C(CC(=O)O)CC(=O)O | C11H10Cl2O4
reactant | NH4OH | 140 mL | [NH4+].[OH-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(2,6-Dichloro-phenyl)-piperidine-2,6-dione | 9.37 g | ClC1=C(C(=CC=C1)Cl)C1CC(NC(C1)=O)=O | C11H9Cl2NO2
